* File: G3_AND2_N1.pex.netlist.pex
* Created: Wed Feb 23 10:37:48 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_AND2_N1_VSS 2 4 6 8 10 12 14 16 30 31 33 50 53 70 75 80 85 94 99
+ 108 109 113 114 119 125 127 132 133 134 136 Vss
c68 134 Vss 3.75522e-19
c69 133 Vss 3.62111e-19
c70 132 Vss 0.00361417f
c71 127 Vss 0.00255728f
c72 125 Vss 0.00548072f
c73 119 Vss 0.00398592f
c74 114 Vss 9.65205e-19
c75 113 Vss 0.00179171f
c76 109 Vss 8.2274e-19
c77 108 Vss 0.00426189f
c78 99 Vss 0.00393602f
c79 94 Vss 0.004332f
c80 85 Vss 7.10513e-22
c81 80 Vss 6.65776e-19
c82 75 Vss 3.89225e-19
c83 70 Vss 0.00133027f
c84 58 Vss 0.0299355f
c85 57 Vss 0.0299355f
c86 53 Vss 7.50699e-20
c87 51 Vss 0.0346861f
c88 50 Vss 0.0984533f
c89 42 Vss 0.105926f
c90 37 Vss 0.0688517f
c91 33 Vss 6.52493e-20
c92 31 Vss 0.0342473f
c93 30 Vss 0.064644f
c94 16 Vss 0.00266844f
c95 14 Vss 0.0828881f
c96 12 Vss 0.0825199f
c97 10 Vss 0.0830027f
c98 8 Vss 0.0831275f
c99 6 Vss 0.0832632f
c100 4 Vss 0.0828837f
c101 2 Vss 0.00266829f
r102 132 136 0.326018
r103 131 132 4.16786
r104 127 131 0.655813
r105 126 134 0.494161
r106 125 136 0.326018
r107 125 126 10.1279
r108 121 134 0.128424
r109 120 133 0.494161
r110 119 134 0.494161
r111 119 120 10.378
r112 115 133 0.128424
r113 113 133 0.494161
r114 113 114 4.37625
r115 108 114 0.668428
r116 107 109 0.6565
r117 107 108 10.093
r118 85 127 1.82344
r119 80 99 1.16709
r120 80 121 2.16729
r121 75 94 1.16709
r122 75 115 2.16729
r123 70 109 1.85991
r124 53 99 0.238214
r125 51 53 1.45875
r126 50 54 0.652036
r127 50 53 1.45875
r128 47 51 0.652036
r129 43 58 0.494161
r130 42 44 0.652036
r131 42 43 2.9175
r132 39 58 0.128424
r133 38 57 0.494161
r134 37 58 0.494161
r135 37 38 2.8008
r136 34 57 0.128424
r137 33 94 0.238214
r138 31 33 1.4004
r139 30 57 0.494161
r140 30 33 1.5171
r141 27 31 0.652036
r142 16 85 1.16709
r143 14 47 2.5674
r144 12 54 2.5674
r145 10 44 2.5674
r146 8 39 2.5674
r147 6 27 2.5674
r148 4 34 2.5674
r149 2 70 1.16709
.ends

.subckt PM_G3_AND2_N1_VDD 2 4 6 10 12 25 27 33 51 53 54 58 60 64 68 70 74 76 78
+ 79 85 94 Vss
c87 94 Vss 0.00555165f
c88 85 Vss 0.00507125f
c89 79 Vss 4.42156e-19
c90 76 Vss 5.947e-19
c91 74 Vss 0.00125165f
c92 70 Vss 0.00410186f
c93 68 Vss 0.0014864f
c94 64 Vss 0.0023623f
c95 60 Vss 0.00679469f
c96 58 Vss 0.0016182f
c97 55 Vss 0.00207011f
c98 54 Vss 0.0101277f
c99 53 Vss 0.0036687f
c100 51 Vss 0.00587536f
c101 33 Vss 0.0347789f
c102 32 Vss 0.101192f
c103 27 Vss 0.183894f
c104 25 Vss 0.0364084f
c105 12 Vss 0.0842982f
c106 10 Vss 0.0825186f
c107 6 Vss 0.00153036f
c108 4 Vss 0.00221866f
c109 2 Vss 0.0976708f
r110 74 94 1.16709
r111 72 74 2.16729
r112 71 79 0.494161
r113 70 72 0.652036
r114 70 71 7.46046
r115 66 79 0.128424
r116 66 68 4.83471
r117 64 85 1.16709
r118 62 64 3.66771
r119 61 78 0.386734
r120 60 79 0.494161
r121 60 61 13.0037
r122 56 76 0.18826
r123 56 58 1.82344
r124 54 62 0.652036
r125 54 55 10.0862
r126 53 78 0.284962
r127 52 76 0.427332
r128 52 53 3.07105
r129 51 76 0.427332
r130 50 55 0.671696
r131 50 51 7.86189
r132 35 94 0.238214
r133 33 35 1.45875
r134 32 36 0.652036
r135 32 35 1.45875
r136 29 33 0.652036
r137 27 85 0.50025
r138 25 27 5.11257
r139 22 25 0.652541
r140 12 36 2.5674
r141 10 29 2.5674
r142 6 68 1.16709
r143 4 58 1.16709
r144 2 22 3.2676
.ends

.subckt PM_G3_AND2_N1_A 2 4 10 13 18 21 26 31 Vss
c25 31 Vss 0.00351715f
c26 26 Vss 0.00299969f
c27 18 Vss 8.55683e-19
c28 13 Vss 0.0576606f
c29 2 Vss 0.0575116f
r30 23 31 1.16709
r31 21 23 2.12561
r32 18 26 1.16709
r33 18 21 2.70911
r34 13 31 0.50025
r35 10 26 0.50025
r36 4 13 1.80885
r37 2 10 1.80885
.ends

.subckt PM_G3_AND2_N1_NET1 2 4 8 10 21 24 27 45 53 66 70 Vss
c51 70 Vss 0.00676771f
c52 66 Vss 0.00607266f
c53 53 Vss 0.00254578f
c54 45 Vss 0.00159242f
c55 27 Vss 1.04894e-19
c56 24 Vss 0.225594f
c57 21 Vss 0.0713786f
c58 19 Vss 0.0247918f
c59 10 Vss 0.0847975f
c60 4 Vss 0.00148239f
c61 2 Vss 0.00144265f
r62 70 74 0.652036
r63 53 66 1.16709
r64 53 74 3.66771
r65 48 70 8.04396
r66 48 50 6.4185
r67 45 48 2.75079
r68 27 66 0.0476429
r69 25 27 0.326018
r70 25 27 0.1167
r71 24 28 0.652036
r72 24 27 6.7686
r73 21 66 0.357321
r74 19 27 0.326018
r75 19 21 0.40845
r76 10 28 2.5674
r77 8 21 2.15895
r78 4 50 1.16709
r79 2 45 1.16709
.ends

.subckt PM_G3_AND2_N1_B 2 4 10 11 14 18 21 Vss
c26 21 Vss 5.0923e-19
c27 14 Vss 0.148163f
c28 11 Vss 0.0348321f
c29 10 Vss 0.287297f
c30 2 Vss 0.172263f
r31 18 21 0.0364688
r32 14 21 1.16709
r33 12 14 2.8008
r34 10 12 0.652036
r35 10 11 8.92755
r36 7 11 0.652036
r37 4 14 3.0342
r38 2 7 5.835
.ends

.subckt PM_G3_AND2_N1_Z 2 16 19 Vss
c11 2 Vss 0.00148239f
r12 16 19 0.0364688
r13 2 19 1.16709
.ends

