* File: G3_AND2_N2.pex.netlist.pex
* Created: Mon Feb 28 10:46:36 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_AND2_N2_VSS 2 3 5 6 8 9 11 13 27 28 30 49 62 67 73 78 83 88 97 102
+ 111 112 116 117 122 128 130 135 136 137 139 Vss
c70 137 Vss 3.78257e-19
c71 136 Vss 3.62111e-19
c72 135 Vss 0.00438377f
c73 130 Vss 0.00256681f
c74 128 Vss 0.00549491f
c75 122 Vss 0.00414054f
c76 117 Vss 8.38241e-19
c77 116 Vss 0.00175385f
c78 112 Vss 7.28672e-19
c79 111 Vss 0.00525523f
c80 102 Vss 0.00402938f
c81 97 Vss 0.00450731f
c82 88 Vss 7.10513e-22
c83 83 Vss 4.8239e-19
c84 78 Vss 0.00106653f
c85 73 Vss 0.00125808f
c86 67 Vss 0.00537538f
c87 62 Vss 0.00490594f
c88 58 Vss 0.0299355f
c89 57 Vss 0.0299355f
c90 50 Vss 0.0347118f
c91 49 Vss 0.0994217f
c92 41 Vss 0.106723f
c93 35 Vss 0.0688517f
c94 30 Vss 5.38535e-20
c95 28 Vss 0.0340588f
c96 27 Vss 0.064644f
c97 11 Vss 0.134525f
c98 9 Vss 0.134971f
c99 8 Vss 0.133544f
c100 6 Vss 0.134177f
c101 5 Vss 0.138048f
c102 3 Vss 0.135913f
r103 135 139 0.326018
r104 134 135 5.08479
r105 130 134 0.655813
r106 129 137 0.494161
r107 128 139 0.326018
r108 128 129 10.1279
r109 124 137 0.128424
r110 123 136 0.494161
r111 122 137 0.494161
r112 122 123 10.378
r113 118 136 0.128424
r114 116 136 0.494161
r115 116 117 4.33457
r116 111 117 0.652036
r117 110 112 0.655813
r118 110 111 16.6297
r119 88 130 1.82344
r120 83 102 1.16709
r121 83 124 2.66743
r122 78 97 1.16709
r123 78 118 2.16729
r124 73 112 1.82344
r125 67 88 1.16709
r126 62 73 1.16709
r127 52 102 0.0476429
r128 50 52 1.45875
r129 49 53 0.652036
r130 49 52 1.45875
r131 46 50 0.652036
r132 42 58 0.494161
r133 41 43 0.652036
r134 41 42 2.9175
r135 37 58 0.128424
r136 36 57 0.494161
r137 35 58 0.494161
r138 35 36 2.8008
r139 31 57 0.128424
r140 30 97 0.238214
r141 28 30 1.4004
r142 27 57 0.494161
r143 27 30 1.5171
r144 24 28 0.652036
r145 13 67 0.185659
r146 11 46 3.8511
r147 9 53 3.8511
r148 8 43 3.8511
r149 6 37 3.8511
r150 5 24 3.8511
r151 3 31 3.8511
r152 2 62 0.185659
.ends

.subckt PM_G3_AND2_N2_VDD 1 3 5 7 8 10 24 26 33 43 48 53 55 56 60 62 63 66 70 72
+ 74 76 78 79 81 87 96 Vss
c85 96 Vss 0.00462548f
c86 87 Vss 0.00521601f
c87 79 Vss 4.60053e-19
c88 78 Vss 4.52364e-19
c89 76 Vss 0.00122604f
c90 74 Vss 6.12561e-19
c91 72 Vss 0.00375739f
c92 70 Vss 0.001382f
c93 66 Vss 0.00251556f
c94 63 Vss 8.66752e-19
c95 62 Vss 0.00754689f
c96 60 Vss 0.0017718f
c97 57 Vss 0.00173794f
c98 56 Vss 0.010708f
c99 55 Vss 0.00235908f
c100 53 Vss 0.00679887f
c101 48 Vss 0.00711219f
c102 43 Vss 0.00386059f
c103 33 Vss 0.0357726f
c104 32 Vss 0.102409f
c105 26 Vss 0.170515f
c106 24 Vss 0.0339269f
c107 10 Vss 0.136393f
c108 8 Vss 0.13497f
c109 7 Vss 0.00143442f
c110 1 Vss 0.117228f
r111 76 96 1.16709
r112 74 81 0.326018
r113 74 76 2.66743
r114 73 79 0.494161
r115 72 81 0.326018
r116 72 73 7.46046
r117 68 79 0.128424
r118 68 70 5.75164
r119 66 87 1.16709
r120 64 66 3.83443
r121 62 79 0.494161
r122 62 63 13.0037
r123 58 78 0.0828784
r124 58 60 1.82344
r125 56 64 0.652036
r126 56 57 10.0862
r127 55 63 0.652036
r128 54 78 0.551426
r129 54 55 5.08479
r130 53 78 0.551426
r131 52 57 0.652036
r132 52 53 13.0454
r133 48 70 1.16709
r134 43 60 1.16709
r135 35 96 0.0476429
r136 33 35 1.45875
r137 32 36 0.652036
r138 32 35 1.45875
r139 28 33 0.652036
r140 26 87 0.428786
r141 24 26 5.3682
r142 20 24 0.652036
r143 10 36 3.8511
r144 8 28 3.8511
r145 7 48 0.185659
r146 5 48 0.185659
r147 3 43 0.185659
r148 1 20 3.1509
.ends

.subckt PM_G3_AND2_N2_A 2 4 10 13 18 21 26 31 Vss
c26 31 Vss 0.00351072f
c27 26 Vss 0.00323449f
c28 18 Vss 9.2489e-19
c29 13 Vss 0.112394f
c30 2 Vss 0.112081f
r31 23 31 1.16709
r32 21 23 2.95918
r33 18 26 1.16709
r34 18 21 2.41736
r35 13 31 0.50025
r36 10 26 0.50025
r37 4 13 3.09255
r38 2 10 3.09255
.ends

.subckt PM_G3_AND2_N2_NET1 2 4 6 8 10 24 27 38 42 46 50 52 56 68 Vss
c52 68 Vss 0.00584624f
c53 58 Vss 1.47786e-19
c54 56 Vss 0.00230674f
c55 52 Vss 0.00700301f
c56 50 Vss 0.00103961f
c57 46 Vss 7.16542e-19
c58 42 Vss 0.00585482f
c59 38 Vss 0.00349773f
c60 27 Vss 9.81095e-20
c61 24 Vss 0.227317f
c62 21 Vss 0.125908f
c63 19 Vss 0.0247918f
c64 10 Vss 0.139046f
c65 6 Vss 0.00143442f
r66 56 68 1.16709
r67 54 56 3.45932
r68 53 58 0.128424
r69 52 54 0.652036
r70 52 53 7.46046
r71 48 58 0.494161
r72 48 50 6.54354
r73 44 58 0.494161
r74 44 46 3.83443
r75 42 50 1.16709
r76 38 46 1.16709
r77 27 68 0.0476429
r78 25 27 0.326018
r79 25 27 0.1167
r80 24 28 0.652036
r81 24 27 6.7686
r82 21 68 0.357321
r83 19 27 0.326018
r84 19 21 0.40845
r85 10 28 3.8511
r86 8 21 3.44265
r87 6 42 0.185659
r88 4 42 0.185659
r89 2 38 0.185659
.ends

.subckt PM_G3_AND2_N2_B 2 4 10 11 14 21 Vss
c26 21 Vss 3.50736e-19
c27 14 Vss 0.181075f
c28 11 Vss 0.0348746f
c29 10 Vss 0.288064f
c30 2 Vss 0.277377f
r31 18 21 0.0729375
r32 14 18 1.16709
r33 12 14 2.1006
r34 10 12 0.652036
r35 10 11 8.92755
r36 7 11 0.652036
r37 4 14 4.3179
r38 2 7 8.57745
.ends

.subckt PM_G3_AND2_N2_Z 2 4 13 18 Vss
c13 13 Vss 0.0052353f
c14 4 Vss 0.00143442f
r15 13 18 1.16709
r16 4 13 0.185659
r17 2 13 0.185659
.ends

