* File: G3_AND2_N3.pex.netlist.pex
* Created: Tue Mar  1 10:56:10 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_AND2_N3_VSS 2 4 6 8 10 12 14 16 30 31 50 62 67 70 75 80 85 94 99
+ 108 109 113 114 119 125 127 132 133 134 136 Vss
c67 134 Vss 3.75522e-19
c68 133 Vss 3.62111e-19
c69 132 Vss 0.004799f
c70 127 Vss 0.00257088f
c71 125 Vss 0.00552282f
c72 119 Vss 0.00412002f
c73 114 Vss 8.41284e-19
c74 113 Vss 0.00175777f
c75 109 Vss 7.31223e-19
c76 108 Vss 0.00590165f
c77 99 Vss 0.00416928f
c78 94 Vss 0.00536429f
c79 85 Vss 7.10513e-22
c80 80 Vss 4.8997e-19
c81 75 Vss 0.00125499f
c82 70 Vss 0.00121927f
c83 67 Vss 0.0100822f
c84 62 Vss 0.00955849f
c85 58 Vss 0.0299311f
c86 57 Vss 0.0299311f
c87 51 Vss 0.0357161f
c88 50 Vss 0.0994129f
c89 42 Vss 0.107716f
c90 37 Vss 0.0688416f
c91 31 Vss 0.0350852f
c92 30 Vss 0.0646396f
c93 14 Vss 0.188821f
c94 12 Vss 0.189513f
c95 10 Vss 0.189371f
c96 8 Vss 0.190733f
c97 6 Vss 0.189919f
c98 4 Vss 0.190281f
c99 2 Vss 1.99696e-19
r100 132 136 0.326018
r101 131 132 5.50157
r102 127 131 0.655813
r103 126 134 0.494161
r104 125 136 0.326018
r105 125 126 10.1279
r106 121 134 0.128424
r107 120 133 0.494161
r108 119 134 0.494161
r109 119 120 10.378
r110 115 133 0.128424
r111 113 133 0.494161
r112 113 114 4.33457
r113 108 114 0.652036
r114 107 109 0.655813
r115 107 108 19.0471
r116 85 127 1.82344
r117 80 99 1.16709
r118 80 121 2.16729
r119 75 94 1.16709
r120 75 115 2.16729
r121 70 109 1.82344
r122 67 85 1.16709
r123 62 70 1.16709
r124 53 99 0.0476429
r125 51 53 1.45875
r126 50 54 0.652036
r127 50 53 1.45875
r128 47 51 0.652036
r129 43 58 0.494161
r130 42 44 0.652036
r131 42 43 2.9175
r132 39 58 0.128424
r133 38 57 0.494161
r134 37 58 0.494161
r135 37 38 2.8008
r136 34 57 0.128424
r137 33 94 0.0476429
r138 31 33 1.4004
r139 30 57 0.494161
r140 30 33 1.5171
r141 27 31 0.652036
r142 16 67 0.123773
r143 14 47 5.1348
r144 12 54 5.1348
r145 10 44 5.1348
r146 8 39 5.1348
r147 6 27 5.1348
r148 4 34 5.1348
r149 2 62 0.123773
.ends

.subckt PM_G3_AND2_N3_VDD 2 4 6 8 10 12 25 27 33 43 48 51 53 54 58 60 64 68 70
+ 74 76 78 79 85 94 Vss
c86 94 Vss 0.00463585f
c87 85 Vss 0.00402796f
c88 79 Vss 4.43941e-19
c89 76 Vss 4.52364e-19
c90 74 Vss 7.90245e-19
c91 70 Vss 0.00408718f
c92 68 Vss 0.00117255f
c93 64 Vss 0.00432275f
c94 60 Vss 0.00739867f
c95 58 Vss 0.00173558f
c96 55 Vss 0.00171371f
c97 54 Vss 0.0100369f
c98 53 Vss 0.00360598f
c99 51 Vss 0.00814794f
c100 48 Vss 0.00687623f
c101 43 Vss 0.00811526f
c102 33 Vss 0.0357902f
c103 32 Vss 0.102427f
c104 27 Vss 0.170038f
c105 25 Vss 0.0352365f
c106 12 Vss 0.190935f
c107 10 Vss 0.189512f
c108 8 Vss 0.00143493f
c109 2 Vss 0.221827f
r110 74 94 1.16709
r111 72 74 2.16729
r112 71 79 0.494161
r113 70 72 0.652036
r114 70 71 7.46046
r115 66 79 0.128424
r116 66 68 6.16843
r117 64 85 1.16709
r118 62 64 6.08507
r119 61 78 0.326018
r120 60 79 0.494161
r121 60 61 13.0037
r122 56 76 0.0828784
r123 56 58 1.82344
r124 54 62 0.652036
r125 54 55 10.0862
r126 53 78 0.326018
r127 52 76 0.551426
r128 52 53 5.50157
r129 51 76 0.551426
r130 50 55 0.652036
r131 50 51 15.046
r132 48 68 1.16709
r133 43 58 1.16709
r134 35 94 0.0476429
r135 33 35 1.45875
r136 32 36 0.652036
r137 32 35 1.45875
r138 29 33 0.652036
r139 27 85 0.428786
r140 25 27 5.3682
r141 22 25 0.652036
r142 12 36 5.1348
r143 10 29 5.1348
r144 8 48 0.123773
r145 6 48 0.123773
r146 4 43 0.123773
r147 2 22 6.3018
.ends

.subckt PM_G3_AND2_N3_A 1 2 9 20 23 28 33 Vss
c24 33 Vss 0.00369912f
c25 28 Vss 0.00225353f
c26 20 Vss 0.00104617f
c27 12 Vss 0.166756f
c28 1 Vss 0.171396f
r29 25 33 1.16709
r30 23 25 2.66743
r31 20 28 1.16709
r32 20 23 2.70911
r33 12 33 0.50025
r34 9 28 0.50025
r35 2 12 4.37625
r36 1 9 4.60965
.ends

.subckt PM_G3_AND2_N3_NET1 2 4 6 7 8 23 26 38 42 48 52 54 58 71 Vss
c52 71 Vss 0.00600165f
c53 60 Vss 2.11292e-19
c54 58 Vss 0.0011885f
c55 54 Vss 0.00636228f
c56 52 Vss 6.44544e-19
c57 48 Vss 8.20028e-19
c58 42 Vss 0.00560082f
c59 38 Vss 0.00901424f
c60 26 Vss 8.44333e-20
c61 23 Vss 0.229828f
c62 19 Vss 0.18045f
c63 17 Vss 0.0247918f
c64 8 Vss 0.193588f
c65 6 Vss 0.00143493f
r66 58 71 1.16709
r67 56 58 2.16729
r68 55 60 0.128424
r69 54 56 0.652036
r70 54 55 7.46046
r71 52 68 1.16709
r72 50 60 0.494161
r73 50 52 6.29346
r74 46 60 0.494161
r75 46 48 6.21011
r76 42 68 0.15
r77 38 48 1.16709
r78 26 71 0.0476429
r79 24 26 0.326018
r80 24 26 0.1167
r81 23 27 0.652036
r82 23 26 6.7686
r83 19 71 0.357321
r84 17 26 0.326018
r85 17 19 0.40845
r86 8 27 5.1348
r87 7 19 4.72635
r88 6 42 0.123773
r89 4 42 0.123773
r90 2 38 0.123773
.ends

.subckt PM_G3_AND2_N3_B 2 3 9 10 13 19 22 Vss
c26 19 Vss 2.97116e-19
c27 13 Vss 0.236449f
c28 10 Vss 0.0348969f
c29 9 Vss 0.287374f
c30 2 Vss 0.332764f
r31 19 22 0.0416786
r32 13 19 1.16709
r33 11 13 2.15895
r34 9 11 0.652036
r35 9 10 8.92755
r36 6 10 0.652036
r37 3 13 5.6016
r38 2 6 10.0362
.ends

.subckt PM_G3_AND2_N3_Z 2 4 13 16 Vss
c13 13 Vss 0.00498872f
c14 4 Vss 0.00143493f
r15 16 19 0.0416786
r16 13 19 1.16709
r17 4 13 0.123773
r18 2 13 0.123773
.ends

